US08895745B2
Step 2: (Tetrahydro-pyran-4-yl)-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amine
To a solution of (3-Bromo-phenyl)-(tetrahydro-pyran-4-yl)-amine (0.2 g, 0.77 mmol) in DMSO (5 ml) was added bis(pinacolato)diboron (0.4 g, 1.55 mmol) and potassium acetate (0.23 g, 2.31 mmol). The reaction was deoxygenated and PdCl2ddpf (28 mg, 39 μmol) was added and the mixture was deoxygenated again, then stirred and heated at 100° C. under N2 for 18 h. The crude reaction mixture was purified using reverse phase silica chromatography (0-100% MeCN in H2O) to afford the title compound as a pale brown gum (0.24 g). MS: [M+H]+=304

reactant | (3-Bromo-phenyl)-(tetrahydro-pyran-4-yl)-amine | 0.77 mmol, 0.2 g | BrC=1C=C(C=CC1)NC1CCOCC1 | C11H14BrNO
reactant | bis(pinacolato)diboron | 1.55 mmol, 0.4 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.31 mmol, 0.23 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | (Tetrahydro-pyran-4-yl)-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-amine | 0.24 g | O1CCC(CC1)NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C17H26BNO3
